US06645990B2
1-[2-(2-Ethoxypyridin-4-yl)thiazol-4-yl]-3-(6-ethyl-pyridin-2-yl)urea
To a 10 mL round bottom flask containing 1-[2-(2-chloropyridin-4-yl)thiazol-4-yl]-3-(6-ethylpyridin-2-yl)urea (40 mg, 0.11 mmol) (prepared similar to that described for Example 95) was charged a 21 wt % NaOEt/EtOH solution (5 mL). The reaction mixture was heated to reflux. After 2 h, the reaction mixture was cooled to RT and diluted with H2O then concentrated in vacuo. The solid residue was washed with CH2Cl2 and EtOAc then the solid was diluted with MeOH and concentrated in vacuo. The residue was diluted with EtOAc; washed with saturated NH4Cl and H2O, dried (MgSO4) and concentrated in vacuo to afford the title compound as a light-orange solid. MS m/z: 370.2 (M+H). Calc'd for C18H19N5O2S: 369.13.

reactant | 1-[2-(2-chloropyridin-4-yl)thiazol-4-yl]-3-(6-ethylpyridin-2-yl)urea | 0.11 mmol, 40 mg | ClC1=NC=CC(=C1)C=1SC=C(N1)NC(=O)NC1=NC(=CC=C1)CC | C16H14ClN5OS
reactant | NaOEt EtOH | 5 mL | CC[O-].[Na+].CCO
solvent | H2O | O | H2O
product | 1-[2-(2-Ethoxypyridin-4-yl)thiazol-4-yl]-3-(6-ethyl-pyridin-2-yl)urea | C(C)OC1=NC=CC(=C1)C=1SC=C(N1)NC(=O)NC1=NC(=CC=C1)CC | C18H19N5O2S
